US07691841B2
2-[3-(3-Chloro-phenyl)-ureido]-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide]
A solution of 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide (1 M equivalent) in dimethylformamide is treated with a solution of the isocyanate (1.5 M equivalents) in dimethylformamide and left at room temperature overnight. The reaction mixture is diluted with chloroform/methanol 50:50 and applied to a SCX-3 1 g cartridge. The cartridge is washed with chloroform methanol 50:50, and the compound eluted with a solution of 10% ammonia in methanol. The solvent is evaporated to afford the title compound.

reactant | 2-Amino-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide | 1 M | NCC(=O)NCC1CN(C1)CC1=CC(=C(C=C1)Cl)Cl | C13H17Cl2N3O
reactant | isocyanate | 1.5 M | [N-]=C=O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-[3-(3-Chloro-phenyl)-ureido]-N-[1-(3,4-dichloro-benzyl)-azetidin-3-ylmethyl]-acetamide | ClC=1C=C(C=CC1)NC(NCC(=O)NCC1CN(C1)CC1=CC(=C(C=C1)Cl)Cl)=O | C20H21Cl3N4O2
